US05260423
Preparation of benzo-1,2,3-thiadiazole-7-carbaldehyde (Comp. No. 1.4)
99 g of benzo-1,2,3-thiadiazole-7-carboxylic acid chloride are dissolved in 1.2 l of ethyl acetate, the mixture is treated at 0°-5° C. with a solution of 58.7 g of 2,6-lutidine in 200 ml of tetrahydrofuran as well as 33 g of palladium/charcoal catalyst (5% Pd), and hydrogenated under low pressure (104Pa) with a further addition of a total of 57 g of palladium/charcoal catalyst and 500 ml of tetrahydrofuran in 5 portions. The catalyst is subsequently removed by filtration and washed with tetrahydrofuran, and the filtrate is evaporated. The residue is purified on silica gel (CH2Cl2) and gives the title compound of m.p. 134°-136° C.

reactant | benzo-1,2,3-thiadiazole-7-carboxylic acid chloride | 99 g | S1N=NC2=C1C(=CC=C2)C(=O)Cl | C7H3ClN2OS
reactant | 2,6-lutidine | 58.7 g | N1=C(C=CC=C1C)C | C7H9N
solvent | ethyl acetate | 1.2 l | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium/charcoal | 33 g | [Pd] | Pd
catalyst | palladium/charcoal | 57 g | [Pd] | Pd
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | benzo-1,2,3-thiadiazole-7-carbaldehyde | S1N=NC2=C1C(=CC=C2)C=O | C7H4N2OS
